US07981903B2
2-({2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-5-methyl-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide (249 mg, 0.348 mmol) was dissolved in dioxane (3 mL) and 2N NaOH (2 mL) was added in a microwave safe vessel. The reaction was then heated in a microwave at 120° C. for 17 min. Reaction was diluted with EtOAc and the organic layer was washed with water and a saturated brine solution and dried over sodium sulfate. Solvents were removed under reduced pressure and the residue purified by chromatography on SiO2 to afford 2-[(2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-5-methyl-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide (132 mg, 0.235 mmol) as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.83-1.93 (m, 2 H) 2.11 (br. s., 6 H) 2.42 (s, 3H) 2.68 (br. s., 2 H) 2.81 (d, J=4.49 Hz, 3 H) 3.21 (s, 2 H) 3.66-3.74 (m, 2 H) 3.84 (s, 3 H) 6.70-6.78 (m, 1 H) 6.79-6.88 (m, 1 H) 6.88-6.98 (m, 1 H) 7.31-7.41 (m, 1H) 7.43 (s, 1 H) 8.34-8.42 (m, 2 H) 8.63-8.72 (m, 1 H) 9.49-9.59 (m, 1 H) 11.00-11.12 (m, 1 H). ESIMS (M+H)+=561

reactant | 2-({2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-5-methyl-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide | 0.348 mmol, 249 mg | CN(CC(=O)N1CCCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2C)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)NC)C(=CC=C2)F)OC)C | C36H39FN8O5S
reactant | NaOH | 2N, 2 mL | [OH-].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[(2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-5-methyl-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide | 0.235 mmol, 132 mg | CN(CC(=O)N1CCCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2C)NC2=C(C(=O)NC)C(=CC=C2)F)OC)C | C29H33FN8O3
